### PR TITLE
[Merged by Bors] - feat: split a set in the prime spectrum of `R[X]` into its localization away from `c : R` and quotient by `c` parts

### PR DESCRIPTION
**Pull request by YaelDillies**
From GrowthInGroups (LeanCamCombi)

Co-authored-by: Andrew Yang

---

- [x] depends on: #20070

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean [hunk 1]
```diff
@@ -844,6 +849,34 @@ lemma exists_idempotent_basicOpen_eq_of_isClopen {s : Set (PrimeSpectrum R)}
...
+variable [CommSemiring R] [CommSemiring S]
+
+open Localization Polynomial in
+lemma comap_C_eq_comap_localization_union_comap_quotient
+    {R : Type*} [CommRing R] (s : Set (PrimeSpectrum R[X])) (c : R) :
+    comap C '' s =
+      comap (algebraMap R (Away c)) '' (comap C ''
+        (comap (mapRingHom (algebraMap R (Away c))) ⁻¹' s)) ∪
+      comap (Ideal.Quotient.mk (.span {c})) '' (comap C ''
+        (comap (mapRingHom (Ideal.Quotient.mk _)) ⁻¹' s)) := by
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:862]: The title should say "localization away from `c`" instead of "at `c`". We localized at a prime ideal, but away from an element.

**Review by alreadydone — APPROVED** [review]

**Comment by alreadydone** [comment]
Sorry, I meant to push to #20070.

**Comment by YaelDillies** [comment]
> Sorry, I meant to push to #20070.

I've moved your commit there.

> It would take another PR to fix them though.

Do you want this to be a preliminary PR or can it wait until after #20070 is merged?

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean (hunk 1 above)
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:862]: I think it's better to replace this by a lemma about Set only that could go into a much earlier file, namely that if you have `f` and `g` that are jointly surjective, and commutative squares `h ∘ f = f₁ ∘ f₂` and `h ∘ g = g₁ ∘ g₂`, then `h '' s = f₁ '' (f₂ '' (f ⁻¹' s)) ∪ g₁ '' (g₂ '' (g ⁻¹' s))`; the three conditions can be proved locally when applying the lemma.
Of course, if you are going to use this lemma multiple times, it would be worth keeping it too.

**Comment by alreadydone** [comment]
> Do you want this to be a preliminary PR or can it wait until after #20070 is merged?

I'm not planning to fix it soon; I'll open an issue.

File: Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/AlgebraicGeometry/PrimeSpectrum/Basic.lean:862]: You're right, that's quite neater

File: Mathlib/RingTheory/Spectrum/Prime/Topology.lean [hunk 2]
```diff
@@ -549,6 +553,20 @@ theorem isLocalization_away_iff_atPrime_of_basicOpen_eq_singleton [Algebra R S]
     exact not_not.mpr (q.span_singleton_le_iff_mem.mp le)
   IsLocalization.isLocalization_iff_of_isLocalization _ _ (Localization.Away f)
 
+variable {R : Type*} [CommRing R]
+open Localization Polynomial Set in
+lemma range_comap_algebraMap_localization_compl_eq_range_comap_quotientMk (c : R) :
+    letI := (mapRingHom (algebraMap R (Away c))).toAlgebra
+    (range (comap (algebraMap R[X] (Away c)[X])))ᶜ
+      = range (comap (mapRingHom (Ideal.Quotient.mk (.span {c})))) := by
```
Comment (alreadydone) [inline Mathlib/RingTheory/Spectrum/Prime/Topology.lean:561]:
```suggestion
open Localization Polynomial Set in
lemma range_comap_algebraMap_localization_compl_eq_range_comap_quotientMk
    {R : Type*} [CommRing R] (c : R) :
    letI := (mapRingHom (algebraMap R (Away c))).toAlgebra
    (range (comap (algebraMap R[X] (Away c)[X])))ᶜ
      = range (comap (mapRingHom (Ideal.Quotient.mk (.span {c})))) := by
```

File: Mathlib/Data/Set/Image.lean [hunk 3]
```diff
@@ -974,6 +974,14 @@ theorem range_some_union_none (α : Type*) : range (some : α → Option α) ∪
 theorem insert_none_range_some (α : Type*) : insert none (range (some : α → Option α)) = univ :=
   (isCompl_range_some_none α).symm.sup_eq_top
 
+variable {α β γ γ₁ γ₂ δ δ₁ δ₂ : Type*} {h : β → α} {f : γ → β} {f₁ : γ₁ → α} {f₂ : γ → γ₁}
+  {g : δ → β} {g₁ : δ₁ → α} {g₂ : δ → δ₁} in
+lemma image_of_range_union_range_eq_univ (hf : h ∘ f = f₁ ∘ f₂) (hg : h ∘ g = g₁ ∘ g₂)
+    (hfg : range f ∪ range g = univ) (s : Set β) :
```
Comment (alreadydone) [inline Mathlib/Data/Set/Image.lean:980]:
```suggestion
lemma image_of_range_union_range_eq_univ {α β γ γ₁ γ₂ δ δ₁ δ₂ : Type*}
    {h : β → α} {f : γ → β} {f₁ : γ₁ → α} {f₂ : γ → γ₁} {g : δ → β} {g₁ : δ₁ → α} {g₂ : δ → δ₁}
    (hf : h ∘ f = f₁ ∘ f₂) (hg : h ∘ g = g₁ ∘ g₂) (hfg : range f ∪ range g = univ) (s : Set β) :
```

**Review by alreadydone — APPROVED** [review]
Thanks!
maintainer delegate

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
